// "spectre" description for "worklib", "TB1_vco", "Spectre" 


simulator lang=spectre

subckt TB1_vco out1 out2 out3 
//   X1 (ibias out0 out1 out2 out3 out4 out5 out6 out7 vcom vcop gnd! vdd! vdd! gnd!) vco
   X1 (ibias out0 out1 out2 out3 out4 out5 out6 out7 vcom vcop) vco
   I5 (setIC0!) ICforce amp=500m
   I14 (sch_setIC0!) ICforce amp=0
   V1 (net030 vcop) vsource type=pwl wave=[ 0 0 40n 0 80n 200m 160n -200m ]
   V2 (vcom net030) vsource type=pwl wave=[ 0 0 40n 0 80n 200m 160n -200m ]
   R0 (out0 gnd!) res r=1G
   I2 (Freq out0) F2Vconv
   VCM (net030 gnd!) vsource dc=vdd/2 type=dc
   V5 (vdd! gnd!) vsource dc=vdd type=dc
   I25 (gnd! ibias) isource dc=20u type=dc
ends TB1_vco

I1 (o1 o2 o3) TB1_vco